US04689327
40.0 g of 2-hydroxybenzaldehyde, 84 g of 1-chloro-2-tosyloxyethane and 50 g of potassium carbonate are added to 270 ml of dimethylformamide, and the mixture is stirred at room temperature for 3 days. After the reaction, half of the solvent is removed under reduced pressure. About 600 ml of water are added to the residue, and the mixture is extracted with ether. The extract is washed with 10% sodium hydroxide solution and water, dried and then concentrated under reduced pressure to remove solvent. The residue is distilled at 116°-118° C./0.2-0.3 mmHg to give 2-(2-chloroethyloxy)benzaldehyde (51.9 g, yield: 86%) as a colorless oil. The properties of this compound are the same as those disclosed in J.O.C., 18, 1380-1402 (1953).

reactant | 2-hydroxybenzaldehyde | 40.0 g | OC1=C(C=O)C=CC=C1 | C7H6O2
reactant | 1-chloro-2-tosyloxyethane | 84 g | ClCCOS(=O)(=O)C1=CC=C(C)C=C1 | C9H11ClO3S
reactant | potassium carbonate | 50 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 270 ml | CN(C=O)C | C3H7NO
product | 2-(2-chloroethyloxy)benzaldehyde | 51.9 g, yield: 86% | ClCCOC1=C(C=O)C=CC=C1 | C9H9ClO2
